US04943652
To a dispersion of 1.0 g (26.3 mmol) of sodium borohydride in THF (80 ml), there was added 3.95 g (26.3 mmol) of L-(+)-tartaric acid, and the mixture was heated under reflux for four hours in an oil bath at 70° C. with stirring. The resulting mixture was cooled in a cryostat at -20° C., a solution of 1.0 g (6.6 mmol) of phenylglyoxylic acid in THF (5 ml) was added dropwise with stirring over a period of ten minutes, and stirring was continued for 67 hours. The reaction mixture was cooled in an ice bath, 30 ml of 1N HCl was added, and stirring was further continued for 30 minutes. After distilling off the solvent under reduced pressure, the residue was extracted twice with 20 ml ether, and the combined extract was washed with 50 ml of a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The dried solution was concentrated to about 30 ml, and an ethereal solution of diazomethane was added to the concentrate to esterify the reaction product. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography, giving 1.03 g of methyl (R)-(-)-2-hydroxy-2-phenylacetate as a fraction in ethyl acetate:n-hexane (1:5). Its specific rotation [α]D21 was -100.0° (cl. 09, MeOH). The synthesis yield was 93% and the optical yield was 65% e.e. (see Reference 3).

reactant | sodium borohydride | 26.3 mmol, 1.0 g | [BH4-].[Na+]
reactant | L-(+)-tartaric acid | 26.3 mmol, 3.95 g | C([C@H](O)[C@@H](O)C(=O)O)(=O)O | C4H6O6
reactant | phenylglyoxylic acid | 6.6 mmol, 1.0 g | C1(=CC=CC=C1)C(C(=O)O)=O | C8H6O3
reactant | HCl | 1N, 30 ml | Cl | ClH
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | methyl (R)-(-)-2-hydroxy-2-phenylacetate | 1.03 g, yield was 93% | O[C@@H](C(=O)OC)C1=CC=CC=C1 | C9H10O3
